US05688803
9,10-Dichloro-5-hydroxy-3,4-dihydro-pyridazino[4.5-c]quinolin-4-one
2.9 g (0.010 mol) of (RS)-8,9-dichloro-1,4-dihydroxy-1,3-dihydro-furo[3,4-c]quinolin-3-one were dissolved in 60 ml of dimethyl sulphoxide while gassing with argon. 0.51 g (0.010 mol) of hydrazine hydrate was added thereto and the mixture was stirred at room temperature for 50 hrs. An orange coloured solution was obtained and this was treated with 300 ml of ethyl acetate. The precipitated product was filtered off under suction, rinsed with ethyl acetate and recrystallized from dimethylformamide/ethyl acetate. Yield: 0.70 g (25%) of 9,10-dichloro-5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one as yellow-orange coloured crystals; m.p. ~270° C.

reactant | (RS)-8,9-dichloro-1,4-dihydroxy-1,3-dihydro-furo[3,4-c]quinolin-3-one | 0.010 mol, 2.9 g | ClC1=C(C=2C3=C(C(=NC2C=C1)O)C(OC3O)=O)Cl | C11H5Cl2NO4
reactant | hydrazine hydrate | 0.010 mol, 0.51 g | O.NN
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 9,10-Dichloro-5-hydroxy-3,4-dihydro-pyridazino[4.5-c]quinolin-4-one | ClC1=C(C=2C3=C(C(=NC2C=C1)O)C(NN=C3)=O)Cl | C11H5Cl2N3O2
